US05059728
As another example, 2-trifluoromethyl-1,1,1,3,3-pentafluoropentane may be prepared by fluorinating 3-pentanone to form 3,3-difluoropentane which may then be dehydrogenated to form 3,3-difluoro-1-pentene. CF3 may then be reacted with the 3,3-difluoro-1-pentene to form 2-trifluoromethyl-1,3,3-trifluoropentane which may then be dehydrogenated to form 2-trifluoromethyl-1,3,3-trifluoro-1-pentene. The 2-trifluoromethyl-1,3,3-trifluoro-1-pentene may then be reacted with hydrogen fluoride to form 2-trifluoromethyl-1,1,3,3-tetrafluoropentane which may then be dehydrogenated to form 2-trifluoromethyl-1,1,3,3-tetrafluoro-1-pentene which may then be reacted with hydrogen fluoride to form 2-trifluoromethyl-1,1,1,3,3-pentafluoropentane.

reactant | 2-trifluoromethyl-1,3,3-trifluoro-1-pentene | FC(C(=CF)C(CC)(F)F)(F)F | C6H6F6
reactant | hydrogen fluoride | F | FH
product | 2-trifluoromethyl-1,1,3,3-tetrafluoropentane | FC(C(C(F)F)C(CC)(F)F)(F)F | C6H7F7
